US04596816
60% Sodium hydride in oil (1.48 g) was added portionwise to a solution of diethyl malonate (11.7 g) in N,N-dimethylformamide (50 ml) and the mixture was stirred for 10 minutes. A solution of 5-bromomethyl-2-methyl-4-phenyloxazole (9.2 g) in N,N-dimethylformamide (20 ml) was added dropwise under ice-cooling. The mixture was stirred under ice-cooling for 30 minutes, diluted with water, and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was purified by silica gel chromatography [silica gel: 120 g; eluent: hexane-ethyl ether (3:2)] to give an oil (8.0 g) of diethyl 2-(2-methyl-4-phenyl-5-oxazolylmethyl)malonate.

reactant | Sodium hydride | [H-].[Na+]
reactant | diethyl malonate | 11.7 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-bromomethyl-2-methyl-4-phenyloxazole | 9.2 g | BrCC1=C(N=C(O1)C)C1=CC=CC=C1 | C11H10BrNO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | diethyl 2-(2-methyl-4-phenyl-5-oxazolylmethyl)malonate | 8.0 g | CC=1OC(=C(N1)C1=CC=CC=C1)CC(C(=O)OCC)C(=O)OCC | C18H21NO5
